US05104870
To 3',5'-difluoropropiophenone (56.0 g. 0 33 mole) was added a solution of dioxane dibromide (81.8 g. 0.33 mole) in dioxane (500 ml) The reaction mixture was worked up as in Example 1 to yield crude 2-bromo-3',5'-difluoropropiophenone (83.9 g).

reactant | 3',5'-difluoropropiophenone | 33 mole, 56.0 g | FC=1C=C(C=C(C1)F)C(CC)=O | C9H8F2O
reactant | dioxane dibromide | 0.33 mole, 81.8 g | [Br-].[Br-].O1CCOCC1
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2-bromo-3',5'-difluoropropiophenone | 83.9 g | BrC(C(=O)C1=CC(=CC(=C1)F)F)C | C9H7BrF2O
